Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Referred from office due to blood pressure 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ G4P3 at ___ who had a BP of 140/80 in the office. She was 
referred to Labor and Delivery for further evaluation. In OB 
Triage she denied HA, RUQ pain, visual sx, DFM, LOF, VB. 
+intermittent CTX

 
Past Medical History:
PObHx: 
SVD ___ IOL at term elevated BPs, no magenesium
SVD ___ no comps
SVD ___ largest 9#3oz

PMHx: hypothyroidism ___ TSH 0.93
PSHx: denies

 
Social History:
Denies T/E/D
 
Physical Exam:
On admission:
98.1 82 135/78 18
General: NAD
Cardiac: RRR
Pulm: CTA
Abdomen: soft, gravid, NT ~9#
Ext: mild B/L 
FHT: 135/mod var/+a/-D
TOCO: q 10 min 
SVE: 2 ext os/closed in os/long/ high

 
Pertinent Results:
___ 11:30AM BLOOD Hct-30.9*
___ 08:33PM BLOOD WBC-4.5 RBC-4.25 Hgb-11.9* Hct-37.3 
MCV-88 MCH-28.0 MCHC-31.9 RDW-14.8 Plt ___
___ 08:33PM BLOOD Plt ___
___ 08:33PM BLOOD Creat-0.7
___ 08:33PM BLOOD UricAcd-5.9*
 
Brief Hospital Course:
Due to mildly elevated blood pressures at term, the decision was 
made to proceed with induction of labor. PIH labs were within 
normal limits. Ms. ___ received pitocin and had a 
spontaneous vaginal delivery complicated by shoulder dystocia 
(please see Dr. ___ report for further details 
regarding delivery). Postpartum, Ms. ___ received routine 
care. Her blood pressures were carefully monitored. On 
Postpartum day#2, Ms. ___ was started on Labetalol 200 BID 
for BPs 150s/90s. Her blood pressures remained well controlled 
on this regimen. 
She was discharged home in stable condition. 
 
Medications on Admission:
levothyroxine 150mg QD

 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*40 Capsule(s)* Refills:*2*
2. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for Pain.
Disp:*40 Tablet(s)* Refills:*0*
3. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for Pain.
Disp:*40 Tablet(s)* Refills:*2*
4. breast pump  Sig: One (1)   five times a day: hospital grade, 
electric for indication of maternal /infant separation, baby in 
NICU.
Disp:*1 * Refills:*2*
5. labetalol 200 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
induction for hypertension, chronic vs. gestational
vaginal delivery
4th degree laceration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
see nursing instruction sheets
 
Followup Instructions:
___